US06747023B1
1-[(5-Chloroindol-2-yl)sulfonyl]-4-[[3-(pyridin-4-yl)-1,2,4-triazin-6-yl]carbonyl]piperazine hydrochloride
In N,N-dimethylformamide (10 ml) were suspended 3-(pyridin-4-yl)-1,2,4-triazine-6-carboxylic acid and 1-[(5-chloroindol-2-yl)sulfonyl]piperazine hydrochloride (292 mg) at room temperature. To the reaction mixture were successively added 1-hydroxybenzotriazole (117 mg), N-methylmorpholine (191 μl) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (250 mg), followed by stirring overnight. After completion of the reaction, the solvent was distilled off under reduced pressure. Water and ethyl acetate were added to the residue to separate into layers. The organic layer was dried over magnesium sulfate and the filtrate was concentrated. Ethanol was added to the residue. Yellow crystals thus precipitated were collected by filtration and dried, whereby the free form (282 mg) of the title compound was obtained. The free form was suspended in ethanol and the resulting suspension was made acidic by the addition of 1N hydrochloric acid (in ethanol) and a small amount of water. After concentration of the resulting solution, ethanol and ethyl acetate were added and the resulting mixture was concentrated again. Crystals thus precipitated were collected by filtration and dried, whereby the title compound was obtained.

reactant | 3-(pyridin-4-yl)-1,2,4-triazine-6-carboxylic acid | N1=CC=C(C=C1)C=1N=NC(=CN1)C(=O)O | C9H6N4O2
reactant | 1-[(5-chloroindol-2-yl)sulfonyl]piperazine hydrochloride | 292 mg | Cl.ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCNCC1
reactant | 1-hydroxybenzotriazole | 117 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 191 μl | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 250 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[(5-Chloroindol-2-yl)sulfonyl]-4-[[3-(pyridin-4-yl)-1,2,4-triazin-6-yl]carbonyl]piperazine hydrochloride | 282 mg | Cl.ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CN=C(N=N1)C1=CC=NC=C1 | InChI=1S/C21H18ClN7O3S.ClH/c22-16-1-2-17-15(11-16)12-19(25-17)33(31,32)29-9-7-28(8-10-29)21(30)18-13-24-20(27-26-18)14-3-5-23-6-4-14;/h1-6,11-13,25H,7-10H2;1H
